US08076285B2
tert-Butyl [(phenylsulfonyl)(pyridin-3-yl)methyl]carbamate
Pyridine-3-carbaldehyde (5.36 g, 50 mmol), tert-butyl carbamate (11.7 g, 100 mmol, 2 equivalents), sodiumphenylsulfinate (20.36 g, 124 mmol, 2.48 equivalents), formic acid (1.89 ml, 2.30 g, 1 equivalent), methanol (55 ml) and water (111 ml) are mixed and vigorously stirred at room temperature for 3 d. The product precipitates in the form of colorless crystals which are collected by filtration, washed with water and a little MTBE and dried in vacuo. Yield: 4.10 g (24% of theory).

reactant | Pyridine-3-carbaldehyde | 50 mmol, 5.36 g | N1=CC(=CC=C1)C=O | C6H5NO
reactant | tert-butyl carbamate | 100 mmol, 11.7 g, 2 equivalents | C(N)(OC(C)(C)C)=O | C5H11NO2
reactant | sodiumphenylsulfinate | 124 mmol, 20.36 g, 2.48 equivalents | C1(=CC=CC=C1)S(=O)[O-].[Na+]
reactant | formic acid | 1.89 ml, 2.30 g, 1 equivalent | C(=O)O | CH2O2
solvent | water | 111 ml | O | H2O
solvent | methanol | 55 ml | CO | CH4O
product | tert-Butyl [(phenylsulfonyl)(pyridin-3-yl)methyl]carbamate | C1(=CC=CC=C1)S(=O)(=O)C(C=1C=NC=CC1)NC(OC(C)(C)C)=O | C17H20N2O4S
